US05216002
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl]-2-thioxo-4-thiazolidinone (Compound D)
Under a nitrogen atmosphere, 13.98 g of 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene-2-thioxo-4-thiazolidinone, 13.17 g of die 2,6-dimethyl-1,4-dihydro-3,5-pyridinedicarboxylate and 600 ml of toluene were stirred to effect solution. Forty grams of silica gel 60 (finer than 230 mesh), previously dried in vacuo at 50° C. for 7 hours, were added to the reaction. The reaction was heated at reflux for 18 hours and filtered hot. The filtrate was evaporated to dryness. The residue was dissolved in 500 ml of ethyl acetate, washed 5 times each with 400 ml of 1N hydrochloric acid, dried over sodium sulfate, filtered, and evaporated in vacuo to provide a yellow solid. Chromatography over silica gel eluting with 2.5% ethyl acetate in toluene provided 8.0 g of title product, m.p 178°-179° C.

reactant | 5-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene-2-thioxo-4-thiazolidinone | 13.98 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=S)=O | C18H23NO2S2
reactant | 2,6-dimethyl-1,4-dihydro-3,5-pyridinedicarboxylate | CC=1NC(=C(CC1C(=O)[O-])C(=O)[O-])C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methyl]-2-thioxo-4-thiazolidinone | 8.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC1C(NC(S1)=S)=O | C18H25NO2S2
